US09079866B2
1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-(2-hydroxyethyl)methanesulfonamide formic acid salt
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-(2-bromophenyl)-N-(2-hydroxyethyl)methanesulfonamide. MS (ESI): mass calcd. for C19H19FN4O3S, 402.12; m/z found, 403.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.38 (d, J=1.2, 1H), 8.31 (s, 1H), 8.02 (m, 1H), 7.70-7.63 (m, 1H), 7.49-7.40 (m, 2H), 7.40-7.30 (m, 3H), 4.40 (s, 2H), 3.51 (t, J=5.9, 2H), 2.95 (t, J=5.9, 2H), 2.66 (s, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-(2-bromophenyl)-N-(2-hydroxyethyl)methanesulfonamide | BrC1=C(C=CC=C1)CS(=O)(=O)NCCO | C9H12BrNO3S
product | 1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-(2-hydroxyethyl)methanesulfonamide formic acid salt | C(=O)O.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)CS(=O)(=O)NCCO)F | InChI=1S/C19H19FN4O3S.CH2O2/c20-17-9-13(5-6-16(17)18-10-23-19(21)11-22-18)15-4-2-1-3-14(15)12-28(26,27)24-7-8-25;2-1-3/h1-6,9-11,24-25H,7-8,12H2,(H2,21,23);1H,(H,2,3)
